US07871998B2
tert-butyl N-[(benzyloxy)carbonyl]glycyl-D-valinate
A mixture of N-[(benzyloxy)carbonyl]glycine (, 2.4 g, 11.5 mmol), tert-butyl D-valinate hydrochloride (2.4 g, 11.4 mmol) and N-methylmorpholine (2.53 ml, 22.9 mmol) in DCM (20 ml) was stirred at room temperature. TBTU (4.79 g, 14.9 mmol) was added and the mixture was stirred for three days. The solvent was removed under reduced pressure. Water was added and the mixture was extracted two times with toluen. The organic layer was washed with brine, dried (Na2SO4), filtered and concentrated. The crude product was purified by flash chromatography using DCM:EtOAc:aceton 4:1:1 as eluent to give 3.92 g (94%) of the title compound. NMR (500 MHz, CD3COOD) 0.88-0.99 (m, 6H), 1.48 (s, 9H), 2.08-2.19 (m 1H), 3.85 (ABq, 2H), 4.24 (d, 1H), 5.12 (ABq, 2H), 7.28-7.41 (m, 5H).

reactant | N-[(benzyloxy)carbonyl]glycine | 11.5 mmol, 2.4 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | tert-butyl D-valinate hydrochloride | 11.4 mmol, 2.4 g | Cl.N[C@H](C(C)C)C(=O)OC(C)(C)C
reactant | N-methylmorpholine | 22.9 mmol, 2.53 ml | CN1CCOCC1 | C5H11NO
reactant | TBTU | 14.9 mmol, 4.79 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl N-[(benzyloxy)carbonyl]glycyl-D-valinate | 3.92 g, 94% | C(C1=CC=CC=C1)OC(=O)NCC(=O)N[C@H](C(C)C)C(=O)OC(C)(C)C | C19H28N2O5
